### PR TITLE
[Merged by Bors] - feat(Geometry/Group): define a via word metric with respect to `Group.Generators` via `wordProd`. 

### PR DESCRIPTION
**Pull request by homeowmorphism**
A word over a generating family `P : Group.Generators G ι` is a list of letters, each carrying a
sign: `List (ι × Bool)`. The evaluation map is then given by `Group.Generators.wordProd`.

The word length of an element is the length of a shortest representing word, over a generating
family given by `Group.Generators`, and the word metric is the distance it induces on `G`. The
resulting object is `NormedGroup G` with `dist g h = ‖g⁻¹ * h‖`.

---

Use of AI: Claude Fable was used to advise with API design using [mathlib-api](https://github.com/homeowmorphism/mathlib-api). I also used it to [pair-program](https://github.com/homeowmorphism/pair-programming) with me which means it would (at times heavily) hint at how to write statements/proofs. I used it for golfing and re-factoring as well. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by homeowmorphism** [comment]
Starting to wonder if I should call “wordLength” just “length” or use the Coxeter notation as “wordLength” over a group element sounds misleading.

File: Mathlib/Geometry/Group/WordProd.lean [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+
+variable {G ι : Type*} [Group G]
+
+namespace Group.Generators
+
+variable (P : Group.Generators G ι) (i : ι) (b : Bool) (l l₁ l₂ : List (ι × Bool))
+
+/-- The canonical map from a word `List (ι × Bool)` over a generating family `ι` to its
+corresponding group `G`. -/
+def wordProd : G := FreeGroup.lift P.val (FreeGroup.mk l)
```
Comment (kbuzzard) [inline Mathlib/Geometry/Group/WordProd.lean]: This probably should be `P.lift` but we have to wait for #41936

Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordProd.lean]: Done thank you!

File: Mathlib/Geometry/Group/WordProd.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+
+## Main definitions
+
+* `Group.Generators.wordProd`: the canonical map from a word `List (ι × Bool)` over a generating
+  family `ι` to its corresponding group `G`.
+
+## Main results
+
+* `Group.Generators.wordProd_surjective`: every element of `G` is the product of some word over a
+  generating family.
```
Comment (kbuzzard) [inline Mathlib/Geometry/Group/WordProd.lean]:
```suggestion
# Evaluation of words

A generating family `P : Group.Generators G ι` indexed by `ι` gives rise to an evaluation map
`P.wordProd : List (ι × Bool) → G`.

## Main definitions

* `Group.Generators.wordProd`: the canonical map from a word `List (ι × Bool)` over a generating
  family `ι` to the corresponding group `G`. It sends each `(i, true)` to `P.val i` and
  `(i, false)` to `(P.val i)⁻¹`.
```

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- A word `l` is geodesic if its length is exactly the word length of the group element it
+represents. -/
+def IsGeodesic : Prop := P.wordLength (P.wordProd l) = l.length
+
+lemma IsGeodesic.eq {l : List (ι × Bool)} (hl : P.IsGeodesic l) :
+    P.wordLength (P.wordProd l) = l.length := hl
+
+/-- Every group element has a geodesic word representative. -/
+theorem exists_isGeodesic : ∃ l, P.IsGeodesic l ∧ g = P.wordProd l := by
```
Comment (kbuzzard) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
theorem exists_isGeodesic : ∃ l, P.IsGeodesic l ∧ P.wordProd l = g := by
```

Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: Done thanks

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+  obtain ⟨l, rfl, hlen⟩ := Nat.sInf_mem (Set.Nonempty.image List.length (P.wordProd_surjective g))
+  exact ⟨l, hlen.symm, rfl⟩
+
+/-! ### Word length -/
+
+@[simp]
+lemma wordLength_one : P.wordLength (1 : G) = 0 :=
+  Nat.eq_zero_of_le_zero (by simpa using P.wordLength_wordProd_le [])
```
Comment (kbuzzard) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
lemma wordLength_one : P.wordLength (1 : G) = 0 := eq_zero_of_nonpos (P.wordLength_wordProd_le [])
```

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+
+@[simp]
+lemma wordLength_eq_zero_iff : P.wordLength g = 0 ↔ g = 1 := by
+  constructor
+  · obtain ⟨l, hl, rfl⟩ := P.exists_isGeodesic g
+    intro h; rw [hl.eq, List.length_eq_zero_iff] at h
```
Comment (kbuzzard) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
    intro h
    rw [hl.eq, List.length_eq_zero_iff] at h
```

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 4 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: Thanks fixed

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 5 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: fixed

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 6]
```diff
@@ -0,0 +1,128 @@
...
+lemma wordLength_eq_zero_iff : P.wordLength g = 0 ↔ g = 1 := by
+  constructor
+  · obtain ⟨l, hl, rfl⟩ := P.exists_isGeodesic g
+    intro h
+    rw [hl.eq, List.length_eq_zero_iff] at h
+    exact h ▸ P.wordProd_nil
+  · intro h
+    exact h ▸ P.wordLength_one
+
+-- This is uperceded by `wordLength_inv`.
```
Comment (kbuzzard) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
-- This is superceded by `wordLength_inv`.
```

File: Mathlib/Geometry/Group/WordProd.lean [hunk 7]
```diff
@@ -0,0 +1,66 @@
...
+/-- Every element of `G` is the product of some word over a generating family. -/
+theorem wordProd_surjective : Function.Surjective P.wordProd :=
+  P.lift_surjective.comp Quot.mk_surjective
+
+@[simp]
+lemma wordProd_nil : P.wordProd [] = 1 := by
+  simp [wordProd]
+
+@[simp]
+lemma wordProd_singleton : P.wordProd [(i,b)] = cond b (P.val i) (P.val i)⁻¹ := by
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordProd.lean]:
```suggestion
lemma wordProd_singleton : P.wordProd [(i, b)] = cond b (P.val i) (P.val i)⁻¹ := by
```

File: Mathlib/Geometry/Group/WordProd.lean [hunk 8]
```diff
@@ -0,0 +1,66 @@
...
+  simp [wordProd]
+
+lemma wordProd_cons : P.wordProd ((i, b) :: l) = cond b (P.val i) (P.val i)⁻¹ * P.wordProd l := by
+  simp [wordProd]
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordProd.lean:58]: I wonder, perhaps this one should be tagged `@[simp]` instead of `wordProd_singleton`?

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 9]
```diff
@@ -0,0 +1,128 @@
...
+
+The word length of an element is the length of a shortest representing word, over a generating
+family given by `Group.Generators`, and the word metric is the distance it induces on `G`. The
+resulting object is `NormGroup G` with `dist g h = ‖g⁻¹ * h‖`.
+
+## Main definitions
+
+* `Group.Generators.wordLength`: the word length of an element of `G` with respect to a
+  generating family `P`.
+* `Group.Generators.IsGeodesic`: a word is geodesic if of minimal length among the words
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
* `Group.Generators.IsGeodesic`: a word is geodesic if it is of minimal length among the words
```

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 10]
```diff
@@ -0,0 +1,128 @@
...
+variable {G ι : Type*} [Group G]
+
+variable (P : Group.Generators G ι) (g h : G) (l : List (ι × Bool))
+
+/-! ### The word length -/
+
+/-- The word length of `g` with respect to the generating family `P`. -/
+@[no_expose]
+noncomputable def wordLength : ℕ := sInf {n | ∃ l, P.wordProd l = g ∧ l.length = n}
+
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean:63]: I wonder whether it's worth proving a lemma like this:
```
/-- The word length of a group element given by a word `l` is smaller or equal to the
length of `l`. -/
lemma wordLength_le_iff {n : ℕ} :
    P.wordLength g ≤ n ↔ ∃ l, l.length ≤ n ∧ P.wordProd l = g := by
  classical
  have h : {n | ∃ l, P.wordProd l = g ∧ l.length = n}.Nonempty := sorry
  rw [wordLength, Nat.sInf_def h]
  simp
```
This might help golf `wordLength_eq_zero_iff`, for instance.

File: Mathlib/Geometry/Group/WordProd.lean (hunk 7 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordProd.lean]: Thanks!

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 10 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean:63]: Thanks! I have included this theorem and refactored `wordLength_eq_zero_iff` to use this. It did simplify the proof completely!

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 11]
```diff
@@ -0,0 +1,133 @@
...
+theorem wordLength_le_iff {n : ℕ} : P.wordLength g ≤ n ↔ ∃ l, l.length ≤ n ∧ P.wordProd l = g := by
+  constructor
+  · intro h
+    obtain ⟨l, hl, rfl⟩ := P.exists_isGeodesic g
+    exact ⟨l, hl.eq ▸ h, rfl⟩
+  · rintro ⟨l, hl, rfl⟩
+    exact (P.wordLength_wordProd_le l).trans hl
+
+@[simp]
+lemma wordLength_eq_zero_iff : P.wordLength g = 0 ↔ g = 1 := by
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean:95]: Since `g` appears on both sides, I think it should be made implicit with `variable {g} in`.

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 12]
```diff
@@ -0,0 +1,133 @@
...
+
+/-! ### Word length -/
+
+/-- The word length of a group element given by a word `l` is smaller or equal to the
+length of `l`. -/
+lemma wordLength_wordProd_le : P.wordLength (P.wordProd l) ≤ l.length :=
+  Nat.sInf_le ⟨l, rfl, rfl⟩
+
+@[simp]
+lemma wordLength_one : P.wordLength (1 : G) = 0 := eq_zero_of_nonpos (P.wordLength_wordProd_le [])
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean]: This relies on the defeq `wordProd [] = 1`, so I wonder if
```
@[simp]
lemma wordLength_one : P.wordLength (1 : G) = 0 := by
  rw [wordLength_eq_zero_iff]
```
might be better?

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 13]
```diff
@@ -0,0 +1,133 @@
...
+  obtain ⟨l₂, hl₂, rfl⟩ := P.exists_isGeodesic h
+  simpa [wordProd_append, hl₁.eq, hl₂.eq] using P.wordLength_wordProd_le (l₁ ++ l₂)
+
+/-- The `wordLength` with respect to a generating family `P` defines a norm on `G`. -/
+noncomputable def groupNorm : GroupNorm G where
+  toFun g := P.wordLength g
+  map_one' := by simp
+  mul_le' g h := by exact_mod_cast P.wordLength_mul_le g h
+  inv' g := by simp
+  eq_one_of_map_eq_zero' g hg := by simpa using hg
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
  mul_le' := mod_cast P.wordLength_mul_le
  inv' := by simp
  eq_one_of_map_eq_zero' := by simp
```

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 14]
```diff
@@ -0,0 +1,133 @@
...
+
+public import Mathlib.Analysis.Normed.Group.Defs
+public import Mathlib.Geometry.Group.WordProd
+
+/-!
+# The word metric
+
+The word length of an element is the length of a shortest representing word, over a generating
+family given by `Group.Generators`, and the word metric is the distance it induces on `G`. The
+resulting object is `NormGroup G` with `dist g h = ‖g⁻¹ * h‖`.
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean]: "The resulting object is `NormGroup G`" sounds a bit strange to me.

File: Mathlib/Geometry/Group/WordProd.lean (hunk 8 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordProd.lean:58]: This was discussed in the making of the Coxeter API. `_cons` was tagged with `@[simp]` which was then changed to the `_singleton` getting the simp tag for performance reasons. 

https://github.com/leanprover-community/mathlib4/pull/11406#discussion_r1545190206

Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordProd.lean:58]: If I'm understanding correctly, `simp` with `_cons` creates the issue that the RHS is not a good candidate for simp because the `simp`ed form can then go on to have more things to be simplified, creating recursion? @YaelDillies

Comment (YaelDillies) [reply Mathlib/Geometry/Group/WordProd.lean:58]: The recursion isn't the issue per se (linear recursion is fine, eg). However the RHS does contain three copies of `P` and two of `i`, which makes this lemma a bit scary for simp. IMO it would be reasonable for the two lemmas `P.wordProd ((i, true) :: l) = P.val i * P.wordProd l` and `P.wordProd ((i, false) :: l) = (P.val i)⁻¹ * P.wordProd l` to be simp instead, because there are not as many copies of `P` and `i` in the RHS

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 11 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean:95]: Ah, I see what you mean yeah this shouldn't be used as `wordLength_eq_zero_iff g` but `wordLength_eq_zero_iff`! Thanks!

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 12 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: Oh yeah I remember feeling like this was ugly. Thank you!

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 13 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: Oh woah, I didn't know you could do that cool thanks!

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 14 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: I changed it to 

```
The word length of an element is the length of a shortest representing word, over a generating
family given by `Group.Generators`. The word metric is the distance it induces on `G`, which is
given as a norm over `G` inducing the metric space `NormedGroup G` with `dist g h = ‖g⁻¹ * h‖`.
```

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 15]
```diff
@@ -0,0 +1,133 @@
...
+
+public import Mathlib.Analysis.Normed.Group.Defs
+public import Mathlib.Geometry.Group.WordProd
+
+/-!
+# The word metric
+
+The word length of an element is the length of a shortest representing word, over a generating
+family given by `Group.Generators`. The word metric is the distance it induces on `G`, which is
+given as a norm over `G` inducing the metric space `NormedGroup G` with `dist g h = ‖g⁻¹ * h‖`.
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean]: I'm still not sure about this. The word metric is not a norm, and `NormedGroup G` is not a metric space. Here's a minimal suggestion, but feel free to tweak/expand:
```suggestion
The word length of an element is the length of a shortest representing word, over a generating
family given by `Group.Generators`. The word length defines a group norm on `G` inducing
the word metric `dist g h = ‖g⁻¹ * h‖`.
```

Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: This looks a lot better! My only reservation is that "group norm" isn't really a thing, so I'll apply the suggestion and just use "norm on G".

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 16]
```diff
@@ -0,0 +1,133 @@
...
+
+## Implementation notes
+
+* The API in this file is modelled on the length API for Coxeter groups (`CoxeterSystem.length`).
+* The definition of `wordLength` uses `sInf` as `InfSet ℕ` already uses `Nat.find`, saving us from
+  having to rewrite `classical`. The junk value `0` on `∅` is never reached because every group
+  element has at least one word representing it. It uses `@[no_expose]` as it has no useful defeqs.
+
+## TODO
+* Bridge the word metric to the distance in the Cayley graph.
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
* Relate the word metric to the distance in the Cayley graph.
```

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 17]
```diff
@@ -0,0 +1,133 @@
...
+
+* `Group.Generators.exists_isGeodesic`: every element of `G` is represented by some geodesic
+  word.
+
+## Implementation notes
+
+* The API in this file is modelled on the length API for Coxeter groups (`CoxeterSystem.length`).
+* The definition of `wordLength` uses `sInf` as `InfSet ℕ` already uses `Nat.find`, saving us from
+  having to rewrite `classical`. The junk value `0` on `∅` is never reached because every group
+  element has at least one word representing it. It uses `@[no_expose]` as it has no useful defeqs.
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean]:
```suggestion
* We define `wordLength` in terms of `sInf` instead of `Nat.find` to avoid having to produce the
  `DecidablePred` instance. The definition of `wordLength` has no useful defeqs and is
  characterized by `wordLength_le_iff`, so we tag it with `@[no_expose]`.
```

File: Mathlib/Geometry/Group/WordMetric.lean [hunk 18]
```diff
@@ -0,0 +1,133 @@
...
+lemma wordLength_wordProd_le : P.wordLength (P.wordProd l) ≤ l.length :=
+  Nat.sInf_le ⟨l, rfl, rfl⟩
+
+/-- The characterisation of word length: the word length of a group element is less or equal to `n`
+if and only if there exists a word `l` of length `n` which evaluates to `g`. -/
+theorem wordLength_le_iff {n : ℕ} : P.wordLength g ≤ n ↔ ∃ l, l.length ≤ n ∧ P.wordProd l = g := by
+  constructor
+  · intro h
+    obtain ⟨l, hl, rfl⟩ := P.exists_isGeodesic g
+    exact ⟨l, hl.eq ▸ h, rfl⟩
```
Comment (tb65536) [inline Mathlib/Geometry/Group/WordMetric.lean:89]: (just to avoid the term-mode `rw`)
```suggestion
  · obtain ⟨l, hl, rfl⟩ := P.exists_isGeodesic g
    rw [hl.eq]
    intro h
    exact ⟨l, h, rfl⟩
```

**Review by tb65536 — APPROVED** [review]

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 17 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: No mention of the junk value?

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 18 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean:89]: Is `▸` really that bad in this particular case?

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 17 above)
Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean]: I'm going to apply this suggestion as I like your wording better but preserve the junk value mention. Hope that's ok.

File: Mathlib/Geometry/Group/WordMetric.lean (hunk 18 above)
Comment (tb65536) [reply Mathlib/Geometry/Group/WordMetric.lean:89]: To me it's just a bit less clear what exactly it's doing or if it's hiding any defeq issues.

Comment (homeowmorphism) [reply Mathlib/Geometry/Group/WordMetric.lean:89]: Ah ok, thanks for explaining. I see what you mean. Here, I think the replacement is pretty clear but I agree in general.

**Comment by homeowmorphism** [comment]
@tb65536 would it be ok to go for "maintainer merge", or are there more changes you'd like to see?

**Comment by tb65536** [comment]
It looks good enough for now.

Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
